US05708008
N-(1-ethoxycarbonyl-2-methylpropyl)-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
Beginning with 15.0 mg 0.0655 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 14.56 mg (0.0852 mMol) ethyl 2-isocyanato-3-methylbutyrate, 25.0 mg (95%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | ethyl 2-isocyanato-3-methylbutyrate | 0.0852 mMol, 14.56 mg | N(=C=O)C(C(=O)OCC)C(C)C | C8H13NO3
product | N-(1-ethoxycarbonyl-2-methylpropyl)-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 25.0 mg, 95% | C(C)OC(=O)C(C(C)C)NC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C22H32N4O3
